US07989438B2
Step 3: methyl (7R)-14-cyclohexyl-7-(methyl{2-[3-(methylamino)pyrrolidin-1-yl]ethyl}amino)-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate
Methyl (7R)-7-[(2-{3-[(tert-butoxycarbonyl)(methyl)amino]pyrrolidin-1-yl}ethyl)(methyl)amino]-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate was dissolved in DCM and treated with TFA. The solution was stirred for 2 h at RT. The solvents were removed in vacuo to leave the product as pale yellow foam. (ES+) m/z 545 (M+H)+.

reactant | Methyl (7R)-7-[(2-{3-[(tert-butoxycarbonyl)(methyl)amino]pyrrolidin-1-yl}ethyl)(methyl)amino]-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate | C(C)(C)(C)OC(=O)N(C1CN(CC1)CCN([C@H]1COC2=C(C=3N(C1)C=1C=C(C=CC1C3C3CCCCC3)C(=O)OC)C=CC=C2)C)C | C38H52N4O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | methyl (7R)-14-cyclohexyl-7-(methyl{2-[3-(methylamino)pyrrolidin-1-yl]ethyl}amino)-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate | C1(CCCCC1)C=1C=2C=CC(=CC2N2C[C@H](COC3=C(C21)C=CC=C3)N(CCN3CC(CC3)NC)C)C(=O)OC | C33H44N4O3
